US08071592B2
(i) 4-{2-[(3S,4R)-3-(Aminomethyl)-4-hydroxy-1-piperidinyl]ethyl}-6-(methyloxy)pyrido[2,3-b]pyrazin-3(4H)-one
To a solution of 4-{2-[(3S,4R)-3-(aminomethyl)-4-hydroxy-1-piperidinyl]ethyl}-6-(methyloxy)-1,4-dihydropyrido[2,3-b]pyrazin-3(2H)-one (170 mg; 0.508 mmol) in DCM:MeOH: 10:1 was added MnO2 (156 mg; 1.52 mmol). The reaction mixture was stirred at ambient temperature under N2 for 2 days, filtered, and concentrated to obtain the product (142 mg; 84%).

reactant | 4-{2-[(3S,4R)-3-(aminomethyl)-4-hydroxy-1-piperidinyl]ethyl}-6-(methyloxy)-1,4-dihydropyrido[2,3-b]pyrazin-3(2H)-one | 0.508 mmol, 170 mg | NC[C@H]1CN(CC[C@H]1O)CCN1C2=C(NCC1=O)C=CC(=N2)OC | C16H25N5O3
reactant | MeOH | CO | CH4O
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 1.52 mmol, 156 mg | O=[Mn]=O
product | 4-{2-[(3S,4R)-3-(Aminomethyl)-4-hydroxy-1-piperidinyl]ethyl}-6-(methyloxy)pyrido[2,3-b]pyrazin-3(4H)-one | NC[C@H]1CN(CC[C@H]1O)CCN1C2=C(N=CC1=O)C=CC(=N2)OC | C16H23N5O3
